* D:\Haashim Shahzada\Documents\github\automated-tourniquet\schematic_design\AT01\Sims\Draft1.asc
V2 N001 0 0
M1 N001 N002 N003 N003 AO6407
D1 N002 N003 1N5817
R1 N002 0 100k tol=1 pwr=0.1
C1 N003 0 10µ V=20 Irms=290m Rser=1 Lser=0 mfg="Vishay" pn="593D106M020B" type="Tantalum"
C2 N004 0 100µ V=6.3 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM31CR60J107KE39" type="X5R"
C3 N004 0 1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM032R60G105ME05" type="X5R"
XU1 N003 MP_01 N003 NC_02 0 N003 N005 0 N004 N004 NC_03 LT3041
R2 N005 0 33.2K tol=1 pwr=0.1
C4 N005 0 0.47µ V=4 Irms=3.38 Rser=0.0190129 Lser=0 mfg="KEMET" pn="C0805C474K7PAC" type="X5R"
C5 N004 0 10µ V=16 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61C106ME15" type="X5R"
V1 N002 0 5
.model D D
.lib C:\Users\Haashim Shahzada\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Haashim Shahzada\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10 0 0.1
.lib LT3041.sub
.backanno
.end
