* D:\Haashim Shahzada\Documents\github\automated-tourniquet\schematic_design\AT01\Sims\LT1935_TA01.asc
V1 IN 0 5
R1 N002 N004 61.2K
R2 N004 0 10K
L1 IN N001 2.7µ Rser=0.182
D1 N001 N002 1N5817
XU1 N001 0 N004 IN IN LT1935
Rload OUT 0 100
C1 IN 0 4.7µ
C4 N002 0 10µ
D2 N002 OUT 1N5817
C2 OUT 0 10µ
.model D D
.lib C:\Users\Haashim Shahzada\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m
* LT1935 - 1.2MHz Boost DC/DC Converter in ThinSOT with 2A Switch\n5V Boost Converter\nInput: 2.5V to 4.8V      Output: 5V @ 1A (Vin=3.3V) or 0.6A (Vin=2.5V)
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT1935.sub
.backanno
.end
